US06809199B2
Step A: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one
To a solution of 7-(bromoacetyl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one (38 mg, 0.059 mmol) in CH2Cl2 (1 mL) was 1-isopropylpiperazine (15 mg, 0.118 mmol) at rt. The reaction mixture was stirred for 1.5 h, then the solvent was removed in vacuo. The resulting crude material was purified by preparative thin layer chromatography using 10% MeOH in CH2Cl2 as an eluent to give the title compound. Mass spectrum (ESI): 691.2 (M+1).

reactant | 7-(bromoacetyl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | 0.059 mmol, 38 mg | BrCC(=O)C1=CC(=C2CN(C(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC)C1=C(C=CC=C1)Cl | C30H22BrCl3N2O3
reactant | 1-isopropylpiperazine | 0.118 mmol, 15 mg | C(C)(C)N1CCNCC1 | C7H16N2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)C(CN1CCN(CC1)C(C)C)=O)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C37H37Cl3N4O3
